US06022307
3,7-Diaminodibenzothiophene-5,5-dioxide
The title compound was prepared as described in U.S. Pat. Nos. 2,590,632 and 2,620,343. At 10° C., 30 g of benzidine sulfate was added, in portions, to 100 ml of fuming sulfuric acid. After the addition, the reaction was maintained at 70° C. for 18 hours, cooled and poured into 250 g of cracked ice. The beige solid was collected, washed with water and saturated sodium bicarbonate yielding a yellow solid. The yellow solid was stirred with bicarbonate solution 2×, collected, washed with large volumes of water, and dried in vacuo to give 22.66 g (87%) of the desired product.

reactant | benzidine sulfate | 30 g | S(=O)(=O)(O)O.C1(=CC=C(N)C=C1)C1=CC=C(N)C=C1
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 3,7-Diaminodibenzothiophene-5,5-dioxide | 22.66 g, 87% | NC=1C=CC2=C(S(C3=C2C=CC(=C3)N)(=O)=O)C1 | C12H10N2O2S
